US08048909B2
N-Methyl-1-{5-(3-methylphenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrol-3-yl}methanamine hydrochloride
Using 5-(3-methylphenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carbaldehyde (0.36 g), methylammonium chloride (0.89 g) and sodium cyanoborohydride (0.21 g), a procedure as in Example 4 was performed to give the title compound as white crystals (yield 0.22 g, 52%).

reactant | 5-(3-methylphenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carbaldehyde | 0.36 g | CC=1C=C(C=CC1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)C)C=O | C19H17NO3S
reactant | methylammonium chloride | 0.89 g | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 0.21 g | C(#N)[BH3-].[Na+]
product | N-Methyl-1-{5-(3-methylphenyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrol-3-yl}methanamine hydrochloride | yield 0.22 g, 52% | Cl.CNCC1=CN(C(=C1)C1=CC(=CC=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C20H22N2O2S.ClH/c1-15-7-9-19(10-8-15)25(23,24)22-14-17(13-21-3)12-20(22)18-6-4-5-16(2)11-18;/h4-12,14,21H,13H2,1-3H3;1H
